US05661160
Synthesis of 1-[2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Prepare by the method of example 3.3 using 2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (8 mmol) and 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (12 mmol). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 8 mmol | O1COC2=C1C=CC(=C2)C2(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 12 mmol | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
product | 1-[2-[3-(benzo[1,3]dioxol-5-yl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | O1COC2=C1C=CC(=C2)C2(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)CCN2CCC(CC2)(C(=O)N)C2=CC=CC=C2 | C35H41N3O7
